US08871782B2
2-(Ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (3.31 g, 10.5 mmol), triphenylphosphine (3.43 g, 13.1 mmol) and tert-butyl 4-hydroxypiperidine-1-carboxylate (2.64 g, 13.1 mmol) were slurried in THF (105 mL), and cooled with an ice/water bath. Diisopropyl azodicarboxylate (2.58 mL, 13.1 mmol) was added dropwise. The cooling bath was removed and the reaction was stirred for 16 hours. The solvent was removed under reduced pressure and the residue was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 1-28% CMA in chloroform) to afford 3.32 g of tert-butyl 4-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate as a tan foam.

reactant | 2-(Ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 10.5 mmol, 3.31 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)(C)O | C17H21N3O3
reactant | triphenylphosphine | 13.1 mmol, 3.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 13.1 mmol, 2.64 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | Diisopropyl azodicarboxylate | 13.1 mmol, 2.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 3.32 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OC2CCN(CC2)C(=O)OC(C)(C)C)N1)CC(C)(C)O | C27H38N4O5
